US07122550B2
4-{6-[(3,5-Dimethoxybenzyl)amino]pyrazin-2-yl}-2-methoxyphenol
In a procedure analogous to Example 22, reaction of 6-chloro-N-(3,5-dimethoxybenzyl)pyrazin-2-amine and 2-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol furnished the product (88%).

reactant | 6-chloro-N-(3,5-dimethoxybenzyl)pyrazin-2-amine | ClC1=CN=CC(=N1)NCC1=CC(=CC(=C1)OC)OC | C13H14ClN3O2
reactant | 2-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | COC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)O | C13H19BO4
product | 4-{6-[(3,5-Dimethoxybenzyl)amino]pyrazin-2-yl}-2-methoxyphenol | 88% | COC=1C=C(CNC2=CN=CC(=N2)C2=CC(=C(C=C2)O)OC)C=C(C1)OC | C20H21N3O4
